US04722929
6-Chloro-8-(2,4-dimethoxy-5-bromo-phenyl)-purine
Prepared analogously to Example 14 from 4,5-diamino-6-chloropyrimidine and 2,4-dimethoxy-5-bromo-benzoic acid.

reactant | 4,5-diamino-6-chloropyrimidine | NC1=NC=NC(=C1N)Cl | C4H5ClN4
reactant | 2,4-dimethoxy-5-bromo-benzoic acid | COC1=C(C(=O)O)C=C(C(=C1)OC)Br | C9H9BrO4
product | 6-Chloro-8-(2,4-dimethoxy-5-bromo-phenyl)-purine | ClC1=C2NC(=NC2=NC=N1)C1=C(C=C(C(=C1)Br)OC)OC | C13H10BrClN4O2
